US07582796B2
1 equal mole of (3-cyanomethyl-2-phenyl-imidazolidin-1-yl)-acetonitrile and THF were mixed in a reactor and the reactor was purged with nitrogen gas. The reaction mixture was then transferred to a feeding vessel. The reactor was washed with THF and the solution was added into the mixture in the feeding vessel. 3 equal moles of LiAlH4 in THF solution was added to the reactor. 4 equal moles of methanol and THF were mixed in another feeding vessel, this mixture was added over the next 40 minutes at an internal temperature of 35 to 40° C. into the main reaction mixture. The solution was then heated to an internal temperature of 40° C. under constant stirring for one additional hour. The mixture of methanol and THF was slowly added to the mixture in the feeding vessel at an internal temperature of 39° C.-45° C. The mixture was stirred at an internal temperature of 40° C. for an additional 30 minutes. The mixture was then cooled to an internal temperature of 10° C. within 1 hour. Na2SO4 and NaOH were added to the reaction mixture. Saturated Na2CO3-solution was added at an internal temperature of 10-18° C. via a feeding vessel. The reaction mixture was stirred at an internal temperature of 10° C. overnight. Na2HPO4 was added to the mixture and the reaction suspension was filtered into the stirring vessel. The filter cake was washed with two volumes of THF. The suspension of Na2HPO4 and the filtrate was stirred for one hour in the stirring vessel and then filtered over a nutsch. The filter cake was washed with THF. Both filtrates (filtration and washing) were then transferred into the second reactor (via inline-filter). 2 equal moles of benzaldehyde was added to the filtrate at 20° C. (via inline filter). THF was distilled off at an internal temperature of 10-20° C. and at a pressure of 130-210 mbar, external temperature (ET)=50° C. Hexane was then added (ET=40° C.) to the mixture. Water was then distilled off at an internal temperature of 16-20° C., with a pressure of 170-190 mbar and a AT of 40-43° C. The hexane was further distilled off at an internal temperature of 16° C., at a pressure of 160-180 mbar and ET=44° C. Isopropanol was added to the reactor via a feeding vessel. Isopropanol was distilled off at IT=10-27° C., p=30-114 mbar and ET=50° C. The reaction mixture was stirred for an hour at an internal temperature of 35° C. The reaction mixture was then cooled to −5° C. and stirred overnight. The nutsch was again purged with nitrogen and the suspension was again filtered. The filter cake was washed with cold (6° C.) isopropanol. The product, benzylidene-(2-{3-[2-(benzylidene-amino)-ethyl]-2-phenyl-imidazolidin-1-yl}-ethyl)-amine, was allowed to dry in a PROVATECH dryer at a temperature of 30-40° C. at a pressure of less than or equal to 30 mbar. The reaction was carried out in five independent reaction vessels with the following results: Flask 1 gave benzylidene-(2-{3-[2-(benzylidene-amino)-ethyl]-2-phenyl-imidazolidin-1-yl}-ethyl)-amine as an off-white solid with a purity of 99.93% as measured by gas chromatography, which represented a total yield of 84.85%. Flask 2 gave benzylidene-(2-{3-[2-(benzylidene-amino)-ethyl]-2-phenyl-imidazolidin-1-yl}-ethyl)-amine as an off-white solid with a purity of 99.42% as measured by gas chromatography, which represented a total yield of 77.1%. Flask 3 gave benzylidene-(2-{3-[2-(benzylidene-amino)-ethyl]-2-phenyl-imidazolidin-1-yl}-ethyl)-amine as an off-white solid with a purity of 99.89% as measured by gas chromatography, which represented a total yield of 78.3%. Flask 4 gave benzylidene-(2-{3-[2-(benzylidene-amino)-ethyl]-2-phenyl-imidazolidin-1-yl}-ethyl)-amine as an off-white solid with a purity of 99.87% as measured by gas chromatography, which represented a total yield of 82.7%.

reactant | (3-cyanomethyl-2-phenyl-imidazolidin-1-yl)-acetonitrile | C(#N)CN1C(N(CC1)CC#N)C1=CC=CC=C1 | C13H14N4
reactant | THF | C1CCOC1 | C4H8O
product | benzylidene-(2-{3-[2-(benzylidene-amino)-ethyl]-2-phenyl-imidazolidin-1-yl}-ethyl)-amine | yield of 84.85% | C(C1=CC=CC=C1)=NCCN1C(N(CC1)CCN=CC1=CC=CC=C1)C1=CC=CC=C1 | C27H30N4
